US06864265B2
A solution of 3-bromoquinoline (22.54 g, 108 mmol) in anhydrous DMF (110 mL) was treated with sodium methoxide (11.70 g, 217 mmol) and stirred at 80° C. for 16 hours. The reaction mixture was then concentrated and the residue taken up in ethyl acetate (300 mL) and water (60 mL). The organic phase was separated, washed with brine (2×60 mL), dried (MgSO4), filtered, concentrated and purified by column chromatography on silica gel (ethyl acetate/hexane; 1:3) to give 3-methoxyquinoline (1.06 g, 6%). 1H NMR (CDCl3) δ3.95 (s, 3H), 7.38 (d, 1H, J=1.5 Hz), 7.54 (m, 2H), 7.72 (d, 1H, J=7.5 Hz), 8.04 (d, 1H, J=7.5 Hz), 8.67 (d, 1H, J=1.5 Hz).

reactant | 3-bromoquinoline | 108 mmol, 22.54 g | BrC=1C=NC2=CC=CC=C2C1 | C9H6BrN
reactant | sodium methoxide | 217 mmol, 11.70 g | C[O-].[Na+]
solvent | DMF | 110 mL | CN(C)C=O | C3H7NO
product | 3-methoxyquinoline | 1.06 g, 6% | COC=1C=NC2=CC=CC=C2C1 | C10H9NO
